US07115747B2
(2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[1-(3-ethynylphenyl)cyclopropyl]amino}butan-2-ol (17)
Acetyl chloride (84 mL, 1.18 moles, 15 equivalents based on the protected 3,5-difluorobenzyl compound) is added slowly to stirred methanol (250 mL). (Alternatively, HCl or TFA may be utilized.) The mixture is stirred for at least 15 min at which time t-butyl(1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethynylphenyl)cyclopropyl]amino}-2-hydroxypropylcarbamate (WO02/02512, PREPARATION 1, 37.8 g, 0.08 moles, 1 equivalent) dissolved in methanol (100 mL) is added slowly. The mixture is then stirred at 20–25° until the reaction is judged to be complete by HPLC. Once complete, the methanol is removed under reduced pressure and the resulting residue is dissolved in water (500 mL). This mixture is washed with MTBE (2×200 mL) and the combined organic phases are washed with hydrochloric acid (1N, 100 mL). The pH of the combined aqueous phases is adjusted to greater than 10 with base and then extracted with MTBE (2×200 mL). The combined organic phases are then concentrated to dryness under reduced pressure to give the title compound.

reactant | Acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | HCl | Cl | ClH
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | t-butyl(1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethynylphenyl)cyclopropyl]amino}-2-hydroxypropylcarbamate | 0.08 moles, 37.8 g, 1 equivalent | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C#C)O)NC(OC(C)(C)C)=O)C=C(C1)F | C26H30F2N2O3
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 250 mL | CO | CH4O
product | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[1-(3-ethynylphenyl)cyclopropyl]amino}butan-2-ol | N[C@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C#C)O)CC1=CC(=CC(=C1)F)F | C21H22F2N2O
